US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-pyrazol-1-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-phenyl-methanone and 121 mg of 4-Pyrazol-1-yl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 6.47 (m, 1H), 7.25 (m, 2H), 7.30–7.35 (m, 3H), 7.41 (m, 1H), 7.49–7.55 (m, 3H), 7.67–7.72 (m, 3H), 7.75–7.78 (m, 2H), 9.62 (s, 1H). MS: m/z 438.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-phenyl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-Pyrazol-1-yl-benzenesulfonyl chloride | 121 mg | N1(N=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H7ClN2O2S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-pyrazol-1-yl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)N1N=CC=C1 | C22H16ClN3O3S
